US05712300
Preparation of N-Hydroxy-α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
An atmosphere of hydrogen is placed over a mixture of N-benzyloxy-α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (80.0 mg, 0.189 mmol), MeOH (4.5 mL) and Pearlman's catalyst (15 mg). The mixture is stirred at room temperature for 4 hours. The mixture is filtered, the solids rinsed with MeOH (4×5 mL), and the filtrate concentrated to give 55.9 mg of an oil. Crystallization from hexane provided 46.9 mg (75%) of the title compound as a white solid (mp 107°-108° C.).

reactant | hydrogen | [H][H] | H2
reactant | N-benzyloxy-α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.189 mmol, 80.0 mg | C(C1=CC=CC=C1)ONC(C(C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C)C)=O | C26H34N2O3
catalyst | Pearlman's catalyst | 15 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | 4.5 mL | CO | CH4O
product | N-Hydroxy-α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 55.9 mg | ONC(C(C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C)C)=O | C19H28N2O3
